US05238938
3-Benzyloxy-5-hydroxymethyl-2-isobutyl-6-methylthiopyrazine 1-oxide (Compound E-52c)
4.55 Grams of 6-amino-5-hydroxymethyl-3-benzyloxy-2-isobutyl isobutylpyrazine 1-oxide and 6.75 ml of dimethyl disulfide were dissolved in 50 ml of CH3CN, and thereto was added 3.02 ml of isoamyl nitrite. The mixture was subjected to a reaction for 20 minutes at 70°-80° C., and the reaction mixture was cooled to room temperature, and mixed with 150 ml of diethyl ether. The resulting mixture was washed with water (100 ml×3), and the ether layer was dried over MgSO4. The solvent was removed by evaporation. The residue was purified by a silica gel chromatography (30% EtOAc-hexane), followed by recrystallization from isopropyl ether-n-hexane to obtain 2.17 g of colorless needle-like crystals (Compound E-52c) having a melting point of 88.5°-86.5° C.

reactant | 6-amino-5-hydroxymethyl-3-benzyloxy-2-isobutyl isobutylpyrazine 1-oxide | NC1=C(N=C(C(=[N+]1[O-])CC(C)(C)CC(C)C)OCC1=CC=CC=C1)CO | C20H29N3O3
reactant | dimethyl disulfide | 6.75 ml | CSSC | C2H6S2
reactant | isoamyl nitrite | 3.02 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 3-Benzyloxy-5-hydroxymethyl-2-isobutyl-6-methylthiopyrazine 1-oxide | 2.17 g | C(C1=CC=CC=C1)OC=1C(=[N+](C(=C(N1)CO)SC)[O-])CC(C)C | C17H22N2O3S
